* =====================================================================
* ECTC 2024 FULL SYSTEM REPRODUCTION
* 48 V -> 1 V, 1 kW, 8 parallel modules, 4 phases/module, 32 phases total
* Each XMOD instance is independently removable/duplicable.
* =====================================================================
.param VIN=48 VOUT_TARGET=1 PTOTAL=1000
.param NMODULES=8 NPHASES=4 FSW=5Meg T={1/FSW}
.param D_IDEAL={NPHASES*VOUT_TARGET/VIN}
.param D_CMD=.102 TON={D_CMD*T} TDEAD=.2n
.param L_EMBEDDED=36.7n NIND_PAR=12
.param LPHASE={L_EMBEDDED/NIND_PAR}
.param RL_PHASE={13.6m/NIND_PAR}
.param CFLY=12u CFLY_ESR=.5m
.param RON_H=7m RON_L=3.5m COSS_H=100p COSS_L=200p

VINPUT vin 0 {VIN}

* Eight modules share input and output; module clocks are interleaved by T/8.
XMOD1 vin m1out 0 SCB4 PHOFF=0
XMOD2 vin m2out 0 SCB4 PHOFF={T/8}
XMOD3 vin m3out 0 SCB4 PHOFF={2*T/8}
XMOD4 vin m4out 0 SCB4 PHOFF={3*T/8}
XMOD5 vin m5out 0 SCB4 PHOFF={4*T/8}
XMOD6 vin m6out 0 SCB4 PHOFF={5*T/8}
XMOD7 vin m7out 0 SCB4 PHOFF={6*T/8}
XMOD8 vin m8out 0 SCB4 PHOFF={7*T/8}

* Zero-volt monitors make every module output current directly recordable.
VMON1 m1out out 0
VMON2 m2out out 0
VMON3 m3out out 0
VMON4 m4out out 0
VMON5 m5out out 0
VMON6 m6out out 0
VMON7 m7out out 0
VMON8 m8out out 0

COUT out 0 800u Rser=.1m
RLOAD out 0 {VOUT_TARGET*VOUT_TARGET/PTOTAL}
.ic V(out)=1
.options plotwinsize=0 reltol=.003
.tran 0 20u 0 .05n UIC

* System-level records over the final 25 switching periods.
.meas tran VOUT_AVG AVG V(out) FROM 15u TO 20u
.meas tran VOUT_PP PP V(out) FROM 15u TO 20u
.meas tran IIN_AVG AVG -I(VINPUT) FROM 15u TO 20u
.meas tran POUT PARAM VOUT_AVG*VOUT_AVG/(VOUT_TARGET*VOUT_TARGET/PTOTAL)
.meas tran PIN PARAM VIN*IIN_AVG
.meas tran EFFICIENCY_PCT PARAM 100*POUT/PIN
.meas tran IMOD1_AVG AVG I(VMON1) FROM 15u TO 20u
.meas tran IMOD2_AVG AVG I(VMON2) FROM 15u TO 20u
.meas tran IMOD3_AVG AVG I(VMON3) FROM 15u TO 20u
.meas tran IMOD4_AVG AVG I(VMON4) FROM 15u TO 20u
.meas tran IMOD5_AVG AVG I(VMON5) FROM 15u TO 20u
.meas tran IMOD6_AVG AVG I(VMON6) FROM 15u TO 20u
.meas tran IMOD7_AVG AVG I(VMON7) FROM 15u TO 20u
.meas tran IMOD8_AVG AVG I(VMON8) FROM 15u TO 20u

* ---------------- MODULAR FOUR-PHASE POWER STAGE ---------------------
.subckt SCB4 IN OUT GND params: PHOFF=0
BGH1 gh1 GND V=if(mod(time+T-PHOFF,T)>TDEAD/2 & mod(time+T-PHOFF,T)<TON-TDEAD/2,5,0)
BGL1 gl1 GND V=if(mod(time+T-PHOFF,T)>TON+TDEAD/2 & mod(time+T-PHOFF,T)<T-TDEAD/2,5,0)
BGH2 gh2 GND V=if(mod(time+T-PHOFF-T/4,T)>TDEAD/2 & mod(time+T-PHOFF-T/4,T)<TON-TDEAD/2,5,0)
BGL2 gl2 GND V=if(mod(time+T-PHOFF-T/4,T)>TON+TDEAD/2 & mod(time+T-PHOFF-T/4,T)<T-TDEAD/2,5,0)
BGH3 gh3 GND V=if(mod(time+T-PHOFF-T/2,T)>TDEAD/2 & mod(time+T-PHOFF-T/2,T)<TON-TDEAD/2,5,0)
BGL3 gl3 GND V=if(mod(time+T-PHOFF-T/2,T)>TON+TDEAD/2 & mod(time+T-PHOFF-T/2,T)<T-TDEAD/2,5,0)
BGH4 gh4 GND V=if(mod(time+T-PHOFF-3*T/4,T)>TDEAD/2 & mod(time+T-PHOFF-3*T/4,T)<TON-TDEAD/2,5,0)
BGL4 gl4 GND V=if(mod(time+T-PHOFF-3*T/4,T)>TON+TDEAD/2 & mod(time+T-PHOFF-3*T/4,T)<T-TDEAD/2,5,0)

SH1 IN a1 gh1 GND SWH
C1 a1 sw1 {CFLY} Rser={CFLY_ESR} IC=36
SL1 sw1 GND gl1 GND SWL
L1 sw1 l1o {LPHASE}
RL1 l1o OUT {RL_PHASE}
SH2 a1 a2 gh2 GND SWH
C2 a2 sw2 {CFLY} Rser={CFLY_ESR} IC=24
SL2 sw2 GND gl2 GND SWL
L2 sw2 l2o {LPHASE}
RL2 l2o OUT {RL_PHASE}
SH3 a2 a3 gh3 GND SWH
C3 a3 sw3 {CFLY} Rser={CFLY_ESR} IC=12
SL3 sw3 GND gl3 GND SWL
L3 sw3 l3o {LPHASE}
RL3 l3o OUT {RL_PHASE}
SH4 a3 sw4 gh4 GND SWH
SL4 sw4 GND gl4 GND SWL
L4 sw4 l4o {LPHASE}
RL4 l4o OUT {RL_PHASE}

DH1 a1 IN DMOD
DL1 GND sw1 DMOD
DH2 a2 a1 DMOD
DL2 GND sw2 DMOD
DH3 a3 a2 DMOD
DL3 GND sw3 DMOD
DH4 sw4 a3 DMOD
DL4 GND sw4 DMOD
CH1 IN a1 {COSS_H}
CL1 sw1 GND {COSS_L}
CH2 a1 a2 {COSS_H}
CL2 sw2 GND {COSS_L}
CH3 a2 a3 {COSS_H}
CL3 sw3 GND {COSS_L}
CH4 a3 sw4 {COSS_H}
CL4 sw4 GND {COSS_L}
.ends SCB4

.model SWH SW(Ron={RON_H} Roff=100Meg Vt=2.5 Vh=.1)
.model SWL SW(Ron={RON_L} Roff=100Meg Vt=2.5 Vh=.1)
.model DMOD D(Ron=3m Roff=100Meg Vfwd=1.5)
.end
