* =====================================================================
* ECTC 2024 STARTUP TEST - ONE 4-PHASE, 125 W MODULE
* PURPOSE: start C1/C2/C3 from 0 V and observe whether the 36/24/12 V
* staircase develops. This is an exploratory engineering test because the
* paper does not publish a startup/precharge controller.
* =====================================================================

.param VIN_FINAL=48 VOUT_TARGET=1 PMODULE=125
.param FSW=5Meg T={1/FSW} D_CMD=.102 TON={D_CMD*T}
.param TENABLE=2u TRAMP=20u TDEAD=.2n
.param RLOAD={VOUT_TARGET*VOUT_TARGET/PMODULE}

* Paper-derived equivalent phase inductor: 12 x 36.7 nH in parallel.
.param NIND_PAR=12 L_EMBEDDED=36.7n LPHASE={L_EMBEDDED/NIND_PAR}
.param RL_EMBEDDED=13.6m RL_PHASE={RL_EMBEDDED/NIND_PAR}

* Unpublished component assumptions, retained from the steady-state test.
.param CFLY=12u CFLY_ESR=.5m
.param COUT=100u COUT_ESR=.2m
.param RON_H=7m RON_L=3.5m
.param COSS_H=100p COSS_L=200p

* STARTUP-SPECIFIC ASSUMPTIONS (not supplied by the paper):
* - input ramps from 0 to 48 V over 20 us after a 2 us delay;
* - 20 mOhm + 10 nH represent a modest source/current-limiting impedance;
* - fixed-frequency interleaved PWM begins at TENABLE;
* - no explicit capacitor precharge, balancing loop, current-mode control,
*   over-current protection or adaptive duty control is modeled.
VRAIL vin_raw 0 PWL(0 0 {TENABLE} 0 {TENABLE+TRAMP} {VIN_FINAL} 200u {VIN_FINAL})
RIN vin_raw vin_limited 20m
LIN vin_limited vin 10n

* Four high-side commands are spaced by T/4. Low sides conduct outside the
* high-side pulse, with the same idealized dead time as the steady-state test.
BGH1 gh1 0 V=if(time>TENABLE & mod(time+T,T)>TDEAD/2 & mod(time+T,T)<TON-TDEAD/2,5,0)
BGL1 gl1 0 V=if(time>TENABLE & mod(time+T,T)>TON+TDEAD/2 & mod(time+T,T)<T-TDEAD/2,5,0)
BGH2 gh2 0 V=if(time>TENABLE & mod(time+T-T/4,T)>TDEAD/2 & mod(time+T-T/4,T)<TON-TDEAD/2,5,0)
BGL2 gl2 0 V=if(time>TENABLE & mod(time+T-T/4,T)>TON+TDEAD/2 & mod(time+T-T/4,T)<T-TDEAD/2,5,0)
BGH3 gh3 0 V=if(time>TENABLE & mod(time+T-T/2,T)>TDEAD/2 & mod(time+T-T/2,T)<TON-TDEAD/2,5,0)
BGL3 gl3 0 V=if(time>TENABLE & mod(time+T-T/2,T)>TON+TDEAD/2 & mod(time+T-T/2,T)<T-TDEAD/2,5,0)
BGH4 gh4 0 V=if(time>TENABLE & mod(time+T-3*T/4,T)>TDEAD/2 & mod(time+T-3*T/4,T)<TON-TDEAD/2,5,0)
BGL4 gl4 0 V=if(time>TENABLE & mod(time+T-3*T/4,T)>TON+TDEAD/2 & mod(time+T-3*T/4,T)<T-TDEAD/2,5,0)

SH1 vin a1 gh1 0 SWH
C1 a1 sw1 {CFLY} Rser={CFLY_ESR}
SL1 sw1 0 gl1 0 SWL
L1 sw1 l1o {LPHASE}
RL1 l1o out {RL_PHASE}

SH2 a1 a2 gh2 0 SWH
C2 a2 sw2 {CFLY} Rser={CFLY_ESR}
SL2 sw2 0 gl2 0 SWL
L2 sw2 l2o {LPHASE}
RL2 l2o out {RL_PHASE}

SH3 a2 a3 gh3 0 SWH
C3 a3 sw3 {CFLY} Rser={CFLY_ESR}
SL3 sw3 0 gl3 0 SWL
L3 sw3 l3o {LPHASE}
RL3 l3o out {RL_PHASE}

SH4 a3 sw4 gh4 0 SWH
SL4 sw4 0 gl4 0 SWL
L4 sw4 l4o {LPHASE}
RL4 l4o out {RL_PHASE}

* Approximate GaN reverse paths and output capacitances.
DH1 a1 vin DMOD
DL1 0 sw1 DMOD
DH2 a2 a1 DMOD
DL2 0 sw2 DMOD
DH3 a3 a2 DMOD
DL3 0 sw3 DMOD
DH4 sw4 a3 DMOD
DL4 0 sw4 DMOD
CH1 vin a1 {COSS_H}
CL1 sw1 0 {COSS_L}
CH2 a1 a2 {COSS_H}
CL2 sw2 0 {COSS_L}
CH3 a2 a3 {COSS_H}
CL3 sw3 0 {COSS_L}
CH4 a3 sw4 {COSS_H}
CL4 sw4 0 {COSS_L}

.model SWH SW(Ron={RON_H} Roff=100Meg Vt=2.5 Vh=.1)
.model SWL SW(Ron={RON_L} Roff=100Meg Vt=2.5 Vh=.1)
.model DMOD D(Ron=3m Roff=100Meg Vfwd=1.5)

Cout out 0 {COUT} Rser={COUT_ESR}
Rload out 0 {RLOAD}

* No IC=36/24/12 and no UIC: flying capacitors begin discharged.
.options plotwinsize=200 reltol=.003
.save V(vin) V(out) V(a1,sw1) V(a2,sw2) V(a3,sw3) I(VRAIL) I(L1) I(L2) I(L3) I(L4)
.tran 0 120u 0 .2n startup

* Final-window staircase values and drift indicators.
.meas tran VC1_FINAL AVG V(a1,sw1) FROM 110u TO 120u
.meas tran VC2_FINAL AVG V(a2,sw2) FROM 110u TO 120u
.meas tran VC3_FINAL AVG V(a3,sw3) FROM 110u TO 120u
.meas tran VC1_DRIFT PARAM VC1_LATE-VC1_EARLY
.meas tran VC2_DRIFT PARAM VC2_LATE-VC2_EARLY
.meas tran VC3_DRIFT PARAM VC3_LATE-VC3_EARLY
.meas tran VC1_EARLY AVG V(a1,sw1) FROM 90u TO 100u
.meas tran VC2_EARLY AVG V(a2,sw2) FROM 90u TO 100u
.meas tran VC3_EARLY AVG V(a3,sw3) FROM 90u TO 100u
.meas tran VC1_LATE AVG V(a1,sw1) FROM 110u TO 120u
.meas tran VC2_LATE AVG V(a2,sw2) FROM 110u TO 120u
.meas tran VC3_LATE AVG V(a3,sw3) FROM 110u TO 120u
.meas tran VOUT_FINAL AVG V(out) FROM 110u TO 120u
.meas tran IIN_PEAK MAX I(VRAIL) FROM 0 TO 120u
.meas tran IL1_PEAK MAX I(L1) FROM 0 TO 120u
.meas tran IL2_PEAK MAX I(L2) FROM 0 TO 120u
.meas tran IL3_PEAK MAX I(L3) FROM 0 TO 120u
.meas tran IL4_PEAK MAX I(L4) FROM 0 TO 120u

.end
