* =====================================================================
* ECTC 2024 STEADY-STATE TEST - ONE OF EIGHT 4-PHASE MODULES
* Paper system: 48 V -> 1 V, 1 kW, 8 input/output-parallel modules
* This file validates one 48 V -> 1 V, 125 W module at 5 MHz.
* TEST BOUNDARY: C1/C2/C3 are precharged to 36/24/12 V. This test verifies
* periodic operation near the intended voltage staircase; it does NOT prove
* that the converter can start from discharged flying capacitors.
* Published topology: Fig. 3. Published design values: Tables 1 and 3.
* =====================================================================

* ------------------------- USER INPUTS -------------------------------
.param VIN_SYSTEM=48
.param VOUT_TARGET=1
.param PTOTAL=1000
.param NMODULES=8
.param NPHASES=4
.param FSW=5Meg

* --------------------- PAPER-DERIVED VALUES --------------------------
.param VIN_MODULE={VIN_SYSTEM}
.param PMODULE={PTOTAL/NMODULES}
.param D_IDEAL={NPHASES*VOUT_TARGET/VIN_SYSTEM}
* Practical command includes the first compensation for modeled conduction
* drops. D_IDEAL remains recorded separately for direct paper comparison.
.param D_CMD=.102
.param D={D_CMD}
.param T={1/FSW}
.param TON={D*T}
.param RLOAD={VOUT_TARGET*VOUT_TARGET/PMODULE}
* Table 3: 12 parallel 36.7 nH inductors per phase at 5 MHz.
.param NIND_PAR=12
.param L_EMBEDDED=36.7n
.param LPHASE={L_EMBEDDED/NIND_PAR}
.param RL_EMBEDDED=13.6m
.param RL_PHASE={RL_EMBEDDED/NIND_PAR}

* ---------------- EXPLICIT MODEL ASSUMPTIONS -------------------------
* Exact capacitor suffixes, Coss and gate timing are not published.
.param CFLY=12u CFLY_ESR=.5m
.param COUT=100u COUT_ESR=.2m
.param RON_H=7m RON_L=3.5m
.param COSS_H=100p COSS_L=200p
.param TDEAD=.2n

VINPUT vin 0 {VIN_MODULE}

* Four interleaved phases, 90 degrees apart.
BGH1 gh1 0 V=if(mod(time+T,T)>TDEAD/2 & mod(time+T,T)<TON-TDEAD/2,5,0)
BGL1 gl1 0 V=if(mod(time+T,T)>TON+TDEAD/2 & mod(time+T,T)<T-TDEAD/2,5,0)
BGH2 gh2 0 V=if(mod(time+T-T/4,T)>TDEAD/2 & mod(time+T-T/4,T)<TON-TDEAD/2,5,0)
BGL2 gl2 0 V=if(mod(time+T-T/4,T)>TON+TDEAD/2 & mod(time+T-T/4,T)<T-TDEAD/2,5,0)
BGH3 gh3 0 V=if(mod(time+T-T/2,T)>TDEAD/2 & mod(time+T-T/2,T)<TON-TDEAD/2,5,0)
BGL3 gl3 0 V=if(mod(time+T-T/2,T)>TON+TDEAD/2 & mod(time+T-T/2,T)<T-TDEAD/2,5,0)
BGH4 gh4 0 V=if(mod(time+T-3*T/4,T)>TDEAD/2 & mod(time+T-3*T/4,T)<TON-TDEAD/2,5,0)
BGL4 gl4 0 V=if(mod(time+T-3*T/4,T)>TON+TDEAD/2 & mod(time+T-3*T/4,T)<T-TDEAD/2,5,0)

* Fig. 3 four-phase series-capacitor buck power stage.
SH1 vin a1 gh1 0 SWH
C1 a1 sw1 {CFLY} Rser={CFLY_ESR} IC=36
SL1 sw1 0 gl1 0 SWL
L1 sw1 l1o {LPHASE}
RL1 l1o out {RL_PHASE}

SH2 a1 a2 gh2 0 SWH
C2 a2 sw2 {CFLY} Rser={CFLY_ESR} IC=24
SL2 sw2 0 gl2 0 SWL
L2 sw2 l2o {LPHASE}
RL2 l2o out {RL_PHASE}

SH3 a2 a3 gh3 0 SWH
C3 a3 sw3 {CFLY} Rser={CFLY_ESR} IC=12
SL3 sw3 0 gl3 0 SWL
L3 sw3 l3o {LPHASE}
RL3 l3o out {RL_PHASE}

SH4 a3 sw4 gh4 0 SWH
SL4 sw4 0 gl4 0 SWL
L4 sw4 l4o {LPHASE}
RL4 l4o out {RL_PHASE}

* GaN reverse paths and output capacitances for boundary/ZVS observation.
DH1 a1 vin DMOD
DL1 0 sw1 DMOD
DH2 a2 a1 DMOD
DL2 0 sw2 DMOD
DH3 a3 a2 DMOD
DL3 0 sw3 DMOD
DH4 sw4 a3 DMOD
DL4 0 sw4 DMOD
CH1 vin a1 {COSS_H}
CL1 sw1 0 {COSS_L}
CH2 a1 a2 {COSS_H}
CL2 sw2 0 {COSS_L}
CH3 a2 a3 {COSS_H}
CL3 sw3 0 {COSS_L}
CH4 a3 sw4 {COSS_H}
CL4 sw4 0 {COSS_L}

.model SWH SW(Ron={RON_H} Roff=100Meg Vt=2.5 Vh=.1)
.model SWL SW(Ron={RON_L} Roff=100Meg Vt=2.5 Vh=.1)
.model DMOD D(Ron=3m Roff=100Meg Vfwd=1.5)

Cout out 0 {COUT} Rser={COUT_ESR}
Rload out 0 {RLOAD}
.ic V(out)=1 I(L1)=0 I(L2)=0 I(L3)=0 I(L4)=0
.options plotwinsize=0 reltol=.002
.tran 0 100u 0 .02n UIC

* -------------------- AUTOMATIC RECORD OUTPUTS -----------------------
.meas tran VOUT_AVG AVG V(out) FROM 90u TO 100u
.meas tran IL1_AVG AVG I(L1) FROM 90u TO 100u
.meas tran IL2_AVG AVG I(L2) FROM 90u TO 100u
.meas tran IL3_AVG AVG I(L3) FROM 90u TO 100u
.meas tran IL4_AVG AVG I(L4) FROM 90u TO 100u
.meas tran IL1_MAX MAX I(L1) FROM 90u TO 100u
.meas tran IL1_MIN MIN I(L1) FROM 90u TO 100u
.meas tran VC1_AVG AVG V(a1,sw1) FROM 90u TO 100u
.meas tran VC2_AVG AVG V(a2,sw2) FROM 90u TO 100u
.meas tran VC3_AVG AVG V(a3,sw3) FROM 90u TO 100u
.meas tran VC1_PP PP V(a1,sw1) FROM 90u TO 100u
.meas tran VC2_PP PP V(a2,sw2) FROM 90u TO 100u
.meas tran VC3_PP PP V(a3,sw3) FROM 90u TO 100u
.meas tran VDSH1_MIN MIN V(vin,a1) FROM 90u TO 100u
.meas tran OUTPUT_ERROR_PCT PARAM 100*(VOUT_AVG-VOUT_TARGET)/VOUT_TARGET
.meas tran NEGATIVE_CURRENT_PCT PARAM 100*abs(IL1_MIN)/IL1_MAX

.end
